US06323235B1
Methyl (3-(2-bromoethyl)benzofuran-7-yloxy)acetate
Methyl (3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate (1.30 g) was dissolved in THE (15 ml) and the solution was cooled to 0° C. To this solution, triphenylphosphine (2.05 g) and N-bromosuccinimide (NBS, 1.39 g) were added and the resulting solution was stirred for 1 hour. Hexane (10 ml) was added to the reaction solution and the reaction solution was filtered through Celite. The filtrate was poured into water layer (50 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying the resultant over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (1.39 g, yield: 85%).

reactant | Methyl (3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate | 1.30 g | OCCC1=COC2=C1C=CC=C2OCC(=O)OC | C13H14O5
reactant | triphenylphosphine | 2.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | Hexane | 10 ml | CCCCCC | C6H14
product | Methyl (3-(2-bromoethyl)benzofuran-7-yloxy)acetate | 1.39 g, yield: 85% | BrCCC1=COC2=C1C=CC=C2OCC(=O)OC | C13H13BrO4
